US07582773B2
Step 4: Synthesis of 4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol.
The desired product was prepared using a procedure similar to step 4 of example 3. Thus, 1-benzyl-5-(4-methoxy-phenyl)-3-pentyl-2-phenyl-1H-indole (0.708 g, 1.54 mmol) was reacted with BBr3 (1.9 ml of a 1M solution in CH2Cl2) to give the product (0.609 g, 1.367 mmol, 89%) as a viscous oil. 1H NMR (DMSO-d6) δ 0.76 (t, J=69 Hz, 3H), 1.13-1.22 (m, 4H), 1.53-1.59 (m, 2H), 2.67 (t, J=7.3 Hz, 2H), 5.26 (s, 2H), 6.82-6.85 (m, 4H), 7.14 (t, J=7.2 Hz, 1H), 7.19 (t, J=6.9 Hz, 2H), 7.29-7.37 (m, 4H), 7.41-7.49 (m, 5H), 7.70 (d, J=1.2 Hz, 1H), 9.37 (s, 1H); [ESI(+)], m/z 446 (M+H)+;

reactant | 1-benzyl-5-(4-methoxy-phenyl)-3-pentyl-2-phenyl-1H-indole | 1.54 mmol, 0.708 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)CCCCC)C1=CC=CC=C1 | C33H33NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CCCCC)C1=CC=CC=C1 | C32H31NO
